US06417192B1
To a stirring suspension of aluminium chloride (33.6 g) in dry dichloromethane (474 ml) was added 8-bromo-n-octanoyl chloride (67.8 g) over 10 min. Chlorobenzene (123 ml) was then added over 10 min and the mixture allowed to stir at 25° C. for 74 h and stood for 64 h. The mixture was poured into ice/water (540 ml) and diethyl ether (1.3 L). The organic layer was removed and was washed with water (540 ml), saturated sodium hydrogen carbonate (540 ml), water (400 ml) and brine (400 ml) and dried over magnesium sulfate. Removal of the organic layer under reduced pressure and chromatography of the residue on silica gel using 5% ethyl acetate in hexane gave 8-bromo-1-(4-chlorophenyl)octan-1-one (35.5 g). 1H-NMR (CDCl3) δ 1.2-1.6 (6H, m), 1.6-1.95 (4H, m), 2.95 (2H, t), 3,42 (2H, t), 7.43 (2H, m) and 7.90 (2H, m).

reactant | aluminium chloride | 33.6 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 8-bromo-n-octanoyl chloride | 67.8 g | BrCCCCCCCC(=O)Cl | C8H14BrClO
reactant | Chlorobenzene | 123 ml | ClC1=CC=CC=C1 | C6H5Cl
reactant | diethyl ether | 1.3 L | C(C)OCC | C4H10O
solvent | dichloromethane | 474 ml | ClCCl | CH2Cl2
product | 8-bromo-1-(4-chlorophenyl)octan-1-one | 35.5 g | BrCCCCCCCC(=O)C1=CC=C(C=C1)Cl | C14H18BrClO
